US04596799
A slurry of 881 g of 10,11-dihydro-5-H-pyrrolo-[2,1-c][1,4]benzodiazepin-11-one is stirred in 12 L of methylene chloride, and 819 g of 99% phosphorus oxychloride is added all at once. The mixture is stirred and refluxed for 19 hours. The reaction mixture is cooled to room temperature. A mixture of 5 L of crushed ice, 7.5 L of cold water and 1.81 kg of 28% ammonium hydroxide solution is stirred and 1.25 L portions of the reaction mixture are added over a period of 15 minutes. The reaction temperature is kept below 25° during the addition. After stirring for 15 minutes, the layers are separated, the methylene chloride layer is washed by stirring with 1 L of cold water then dried by stirring with magnesium sulfate for 1 hour. Charcoal (90 g) is added and the mixture is filtered through filter-cel. The methylene chloride solution is concentrated to dryness in vacuo to give 11-chloro-5H-pyrrolo[2,1-c][1,4]benzodiazepine, m.p. 102°-104°.

reactant | 10,11-dihydro-5-H-pyrrolo-[2,1-c][1,4]benzodiazepin-11-one | 881 g | C=1C=CN2C1C(NC1=C(C2)C=CC=C1)=O | C12H10N2O
reactant | phosphorus oxychloride | 819 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | water | 7.5 L | O | H2O
reactant | ammonium hydroxide | 1.81 kg | [OH-].[NH4+]
solvent | methylene chloride | 12 L | C(Cl)Cl | CH2Cl2
product | 11-chloro-5H-pyrrolo[2,1-c][1,4]benzodiazepine | ClC1=NC2=C(CN3C1=CC=C3)C=CC=C2 | C12H9ClN2
